US06759511B2
Ethyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylate (0.69 g, 1.65 mmol) prepared in the capping step was dissolved in THF/H2O (27.40 ml/13.70 ml), 1N LiOH (4.57 ml) was added thereto, and the mixture was stirred at room temperature. After 15 hours have passed, the reaction solution was acidified to pH 2.0 by 1N HCl and then extracted with EA and water. The organic layer was washed with aqueous NaCl solution, dried over anhydrous MgSO4, and concentrated. The residue was recrystallized from EA and n-hexane to give 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylic acid (0.52 g, 80.94%) of a white solid.

reactant | Ethyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylate | 1.65 mmol, 0.69 g | CN1C(=NC(=C1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C(=O)OCC | C17H18F3N3O4S
reactant | LiOH | 1N, 4.57 ml | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF H2O | 27.40 ml | C1CCOC1.O
product | 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-imidazole-2-carboxylic acid | 0.52 g, 80.94% | CN1C(=NC(=C1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C(=O)O | C15H14F3N3O4S
